US04329347
6-(4-Phenylsulfinyl-butoxy)-carbostyril
Prepared analogous to Example 88 from 6-(4-phenylmercapto-butoxy)-carbostyril and hydrogen peroxide.

reactant | 6-(4-phenylmercapto-butoxy)-carbostyril | C1(=CC=CC=C1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H19NO2S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(4-Phenylsulfinyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H19NO3S
